US04049715
E. 2-(4-Methoxyphenoxy)quinoline.
To a stirred suspension of 32 g. sodium hydride (52% suspension in mineral oil) in 475 ml. dimethylformamide and 475 ml. 1,2-dimethoxyethane was added, portionwise during about fifteen minutes, 59.5 g. 4-methoxyphenol followed by, after five minutes, a solution of 95.5 g. 2-chloroquinoline in 130 ml. dimethyl formamide in one portion and the resulting mixture was heated under reflux for sixteen hours, cooled to 5° C., poured into 4000 ml. ice-water and extracted with ether. The ether extract was washed with ice cold 2% aqueous sodium hydroxide solution, water and saturated salt solution, dried and evaporated to dryness under reduced pressure. The resulting crystals were recrystallized from benzene-hexane to give 104 g. 2-(4-methoxyphenyl)quinoline; m.p. 96.5°-98° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 4-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | 2-chloroquinoline | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | 2-(4-methoxyphenyl)quinoline | COC1=CC=C(C=C1)C1=NC2=CC=CC=C2C=C1 | C16H13NO
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | 2-(4-Methoxyphenoxy)quinoline | COC1=CC=C(OC2=NC3=CC=CC=C3C=C2)C=C1 | C16H13NO2
